US08389717B2
c) (4,6-Dimethoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
Palladium acetate (5.0 mg, 0.022 mmol) and (2-biphenylyl) dicyclohexylphosphine (16 mg, 0.046 mmol) were dissolved under an atmosphere of argon in dioxane (2 mL) and stirred for 10 min at 20° C. This solution was added at 20° C. under an atmosphere of nitrogen to a flask containing 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine (116 mg, 0.57 mmol), 2-chloro-4,6-dimethoxy-1,3,5-triazine (100 mg, 0.57 mmol) and potassium carbonate (1.57 g, 11.4 mmol) in 3 ml of dioxane. The resulting mixture was refluxed over night under argon, poured into a saturated aqueous solution of sodium chloride and extracted 3 times with ethyl acetate. The organic layer was dried, evaporated and the residue purified by column chromatography on silica gel using dichloromethane/methanol (98:2 v/v) as eluent to yield the title compound (18 mg, 9%) as a yellowish solid.

reactant | (2-biphenylyl) dicyclohexylphosphine | 0.046 mmol, 16 mg | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine | 0.57 mmol, 116 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3O
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 0.57 mmol, 100 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | potassium carbonate | 11.4 mmol, 1.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Palladium acetate | 0.022 mmol, 5.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4,6-Dimethoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 18 mg, 9% | COC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C16H18N6O3
